US07642264B2
2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine (example A.11) (1.0 g, 4.18 mmol) and commercially available 3-bromo-benzeneboronic acid (1.09 g, 5.43 mmol) according to the general procedure IVb. Obtained as an off-white solid (0.5 g, 33%). MS (ISP) 361.0 [(M+H)+]; mp 123° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine | 4.18 mmol, 1.0 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C11H8Cl2N2
reactant | 3-bromo-benzeneboronic acid | 5.43 mmol, 1.09 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C17H12BrClN2
